US08912208B2
A. [4-(4-Acetyl-phenyl)-cyclohexyl]-acetic acid ethyl ester
To a 0° C. solution of (4-phenyl-cyclohexyl)-acetic acid ethyl ester (15 g, 61 mmol, 1.0 equiv) in 200 Ml DCM was added aluminum trichloride (16 g, 122 mmol, 2.0 equiv) portionwise over 15 min. Acetyl chloride (4.7 Ml, 67 mmol, 1.10 equiv) was then added dropwise via syringe. The homogeneous solution was allowed to stir at 0° C. for 2 h, then carefully quenched with 300 Ml ice water. The mixture was extracted with DCM (3×150 Ml), and the organic extracts were washed with saturated bicarbonate and brine solution. Removal of solvent in vacuo afforded the title compound: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.10 (q, J=11.96 Hz, 2 H) 1.20 (t, J=7.20 Hz, 3 H) 1.40-1.51 (m, 2 H) 1.84 (d, J=11.12 Hz, 4 H) 1.76-1.87 (m, 1 H) 2.17 (d, J=6.82 Hz, 2 H) 2.50 (s, 3 H) 4.07 (q, J=7.07 Hz, 2 H) 7.22 (d, J=8.34 Hz, 2 H) 7.81 (d, J=8.08 Hz, 2 H); (M+H)+ 289.1.

reactant | (4-phenyl-cyclohexyl)-acetic acid ethyl ester | 61 mmol, 15 g, 1.0 equiv | C(C)OC(CC1CCC(CC1)C1=CC=CC=C1)=O | C16H22O2
reactant | aluminum trichloride | 122 mmol, 16 g, 2.0 equiv | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Acetyl chloride | 67 mmol, 1.10 equiv | C(C)(=O)Cl | C2H3ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [4-(4-Acetyl-phenyl)-cyclohexyl]-acetic acid ethyl ester | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C(C)=O)=O | C18H24O3
